US06608069B1
(a) Amino Hexaethylene Glycol Benzyl Ether
Triethylamine (1.45 mL, 10.74 mmol) and methanesulfonyl chloride (0.48 mL, 5.9 mmol) were added to a solution of hexaethyleneglycol monobenzyl ether (2.0 g, 5.37 mmol) in methylene chloride (30 mL) at 0° C. and the solution was stirred for 30 min at ice bath temperature. The reaction mixture was filtered and concentrated to an oil which was dissolved in 30% ammonium hydroxide solution (50 mL). The reaction mixture was heated at reflux for 3 days and concentrated. Residual water was removed by evaporation from toluene and the crude material was slurried with THF and filtered. The filtrate was concentrated at reduced pressure to provide the title compound as an amber oil (1.14 g, 57% yield). 1H-NMR (300 MHz, DMSO-d6) δ: 7.77 (br s, 2H), 7.40-7.10 (m, 5H), 4.48 (s, 2H), 3.61-3.48 (m, 24H).

reactant | Triethylamine | 10.74 mmol, 1.45 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.9 mmol, 0.48 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hexaethyleneglycol monobenzyl ether | 5.37 mmol, 2.0 g | C(C1=CC=CC=C1)OCCOCCOCCOCCOCCOCCO | C19H32O7
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | Amino Hexaethylene Glycol Benzyl Ether | 1.14 g, 57% yield | C(C1=CC=CC=C1)OC(COCCOCCOCCOCCOCCO)N | C19H33NO7
